US04803200
2-[[1,2-bis(4-Chlorophenyl)-2-oxoethyl]amino]ethanol hydrochloride.
A mixture of 4,4'-dichlorobenzoin (3.52 g, 0.0125 mole), ethanolamine (0.83 g, 0.0235 mole), and phosphorus pentoxide (0.10 g) was heated on a steam bath for 6 minutes with thorough mixing. After cooling, the reaction mixture was dissolved in ether and the ether solution decanted from the phosphorus pentoxide. The solution was treated with ethereal hydrogen chloride and the solid salt collected by filtration and washed with isopropyl ether. The solid was purified by trituration with acetonitrile. The white solid was collected, washed with isopropyl ether, and dried in a vacuum oven at 50° C. for two hours. The yield was 3.24 g (72%), m.p. 190°-193° C.

reactant | 4,4'-dichlorobenzoin | 0.0125 mole, 3.52 g | ClC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)Cl | C14H10Cl2O2
reactant | ethanolamine | 0.0235 mole, 0.83 g | C(O)CN | C2H7NO
reactant | phosphorus pentoxide | 0.10 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | ether | CCOCC | C4H10O
product | 2-[[1,2-bis(4-Chlorophenyl)-2-oxoethyl]amino]ethanol hydrochloride | Cl.ClC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)Cl)NCCO | InChI=1S/C16H15Cl2NO2.ClH/c17-13-5-1-11(2-6-13)15(19-9-10-20)16(21)12-3-7-14(18)8-4-12;/h1-8,15,19-20H,9-10H2;1H
